US07960552B2
To a solution of ethyl 5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate (210 mg, 0.642 mmol) in 2:1 tetrahydrofuran:methanol (3 mL) was added 1 N sodium hydroxide (0.963 mL, 0.963 mmol). The solution was heated in a microwave reactor to 120° C. for 500 seconds. Then 1 N hydrochloric acid (0.963 mL, 0.963 mmol) was added and the solution was concentrated. The residue was taken up with water and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated to afford 5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylic acid (158 mg, 82%). 1H-NMR (400 MHz, DMSO-d6) δ 13.35 (s, 1H), 8.81 (s, 2H), 2.91-2.84 (m, 1H), 1.34-1.24 (m, 4H).

reactant | ethyl 5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylate | 0.642 mmol, 210 mg | C1(CC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)C(=O)OCC | C14H12Cl2N2O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.963 mmol, 1 N, 0.963 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.963 mmol, 1 N, 0.963 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 5-cyclopropyl-3-(3,5-dichloro-4-pyridinyl)-4-isoxazolecarboxylic acid | 158 mg, 82% | C1(CC1)C1=C(C(=NO1)C1=C(C=NC=C1Cl)Cl)C(=O)O | C12H8Cl2N2O3
